US04751291
3.0 g (5.5 mmol) of 2,3,4,6-tetra-O-benzyl-D-glucopyranose were dissolved in 30 ml of anhydrous methylene chloride and the solution was stirred with 1.45 ml (2.11 g; 16.5 mmol) of oxalyl dichloride and 0.3 ml of dimethylformamide at room temperature. After one hour, the solution was concentrated under a high vacuum, the residue was taken up in 10 ml of methylene chloride and the mixture was filtered over about 10 g of silica gel. Renewed concentration gave 2.48 g (80%) of 2,3,4,6-tetra-O-benzyl-α-D-glucopyranosyl chloride as a colorless syrup. The crude product was taken up in 20 ml of anhydrous acetonitrile and the mixture was heated under reflux with 3.0 g (38 mmol) of potassium hydrogen fluoride (24 hours at 100° C., dried over P2O5) for 8 hours. It was possible to purify the crude product by column chromatography on silica gel (methylene chloride/ether, 20:1). Yield: 1.1 g (47%) of 2,3,4,6 -tetra-O-benzyl-α-D-glucopyranosyl fluoride.

reactant | 2,3,4,6-tetra-O-benzyl-D-glucopyranose | 5.5 mmol, 3.0 g | C(C1=CC=CC=C1)O[C@H]1C(O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H36O6
reactant | oxalyl dichloride | 16.5 mmol, 1.45 ml, 2.11 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2,3,4,6-tetra-O-benzyl-α-D-glucopyranosyl chloride | 2.48 g, 80% | C(C1=CC=CC=C1)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)Cl | C34H35ClO5
